US09447106B2
A mixture of 3-bromo-4-chloropyridine (5 g, 0.026 mol) and hydrazine hydrate (80% in water, 80 mL) in dioxane (100 mL) was stirred at 100° C. overnight. After cooling down to RT, the mixture was concentrated. The residue was partitioned between 300 mL of EA and 300 mL of aq. sat. NH4Cl. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to get crude product which was suspended in 30 mL of cold isopropyl alcohol and filtered. The collected solid was dried in air to get 4.2 g (87%) of 3-bromo-4-hydrazinylpyridine as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.18 (s, 1H), 8.07 (d, J=5.6 Hz, 1H), 7.37 (s, 1H), 7.01 (d, J=5.6 Hz, 1H), 4.36 (s, 2H).

reactant | 3-bromo-4-chloropyridine | 0.026 mol, 5 g | BrC=1C=NC=CC1Cl | C5H3BrClN
reactant | hydrazine hydrate | 80 mL | O.NN
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | isopropyl alcohol | 30 mL | C(C)(C)O | C3H8O
product | 3-bromo-4-hydrazinylpyridine | 4.2 g, 87% | BrC=1C=NC=CC1NN | C5H6BrN3
